US05424316
A mixture of 2-n-butyl-4-(2-aminoethyl)-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylimidazole hydrochloride (8.09 g), glyoxylic acid hydrate (1.73 g), 1N aqueous sodium hydroxide solution (53 ml) and dioxane (50 ml) is stirred at 50° C. for two days. The reaction solution is acidified with hydrochloric acid, and evaporated under reduced pressure. The residue is dissolved in methanol (100 ml), and the mixture is cooled to -30° C., and thereto is added dropwise thionyl chloride (12.4 g). After addition, the mixture is stirred at 60° C. for two days. The mixture is evaporated under reduced pressure to remove the solvent. The mixture is neutralized with aqueous sodium hydrogen carbonate solution, and extracted with chloroform. The extract is dried, and evaporated under reduced pressure, and the resulting oily product is purified by silica gel column chromatography (solvent; chloroform/methanol=15:1) to give methyl 2-n-butyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5,c]pyridine-4 -carboxylate (3.74 g) as a powder.

reactant | 2-n-butyl-4-(2-aminoethyl)-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylimidazole hydrochloride | 8.09 g | Cl.C(CCC)C=1N(C=C(N1)CCN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1
reactant | glyoxylic acid hydrate | 1.73 g | O.C(C=O)(=O)O
reactant | sodium hydroxide | 1N, 53 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | methyl 2-n-butyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5,c]pyridine-4 -carboxylate | 3.74 g | C(CCC)C1=NC2=C(C(NCC2)C(=O)OC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C26H29N7O2
